US06355642B1
6-Acetoxy-2a-[4-(2-methoxyphenylpiperazinyl)butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one
A 2 ml portion of DMF solution of 300 mg (0.82 mmol) 6-acetoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one (1.0 g, 5.8 mmol) was mixed with 315 mg (1.64 mmol) of 2-methoxyphenylpiperazine and 0.57 ml (3.28 mmol) of N,N-diisopropylethylamine, and the mixture was stirred overnight at a room temperature. The reaction solution was extracted with ethyl acetate and washed with water. After drying (Na2SO4), the solvent was evaporated under a reduced pressure, and the thus obtained oily substance was purified by a silica gel column chromatography (80 cc; elution with chloroform-methanol=30:1) to obtain 143 mg of the title compound (36% in yield).

reactant | 6-acetoxy-2a-(4-bromobutyl)-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 0.82 mmol, 300 mg | C(C)(=O)OC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCBr | C17H20BrNO3
reactant | 2-methoxyphenylpiperazine | 1.64 mmol, 315 mg | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | N,N-diisopropylethylamine | 3.28 mmol, 0.57 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | DMF | CN(C)C=O | C3H7NO
product | 6-Acetoxy-2a-[4-(2-methoxyphenylpiperazinyl)butyl]-2a,3,4,5-tetrahydrobenz[cd]indole-2(1H)-one | 143 mg, 36% | C(C)(=O)OC1=C2C=3C(C(NC3C=C1)=O)(CCC2)CCCCN2C(CNCC2)C2=C(C=CC=C2)OC | C28H35N3O4
